US05817671
5-(N-[3-fluorobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.085 gm (0.369 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.093 mL (0.776 mMol) 3-fluorobenzoyl chloride, 0.100 gm (77.5%) of the title compound was recovered as a crystalline solid by the procedure described in Example 16.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.369 mMol, 0.085 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 3-fluorobenzoyl chloride | 0.776 mMol, 0.093 mL | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
product | 5-(N-[3-fluorobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.100 gm, 77.5% | FC=1C=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C3CCN(CC3)C)C=CC1 | C20H21FN4O
